US06875895B2
Synthesis of 1,4-bis[2-(4-bromophenyl)-2-phenylethenyl]-2-dimethyloctylsilyl benzene
Under an inert atmosphere, 4-bromobenzophenone (1.306 g, 5 mmol), and 1,4-bis(diethylphosphonomethyl)-2-dimethyloctylsilyl benzene (1.125 g, 2.05 mmol) were dissolved in tetrahydrofuran (15 g). At room temperature, tetrahydrofuran (5.46 g) solution of tert-butoxy potassium (0.690 g, 6.15 mmol) was added dropwise for 5 minutes, and successively stirred for 3.5 hours. The reaction mixture was charged into water (100 ml) and neutralized with 5% sulfuric acid. After neutralization, ethyl acetate (200 ml) was added and the organic layer was partitioned. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant raw product was purified by silica gel chromatography to give the desired product. (Yield: 1.29 g, 83%)

reactant | 4-bromobenzophenone | 5 mmol, 1.306 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | 1,4-bis(diethylphosphonomethyl)-2-dimethyloctylsilyl benzene | 2.05 mmol, 1.125 g | C(C)OP(=O)(OCC)CC1=C(C=C(C=C1)CP(=O)(OCC)OCC)[SiH2]C(CCCCCCC)(C)C | C26H50O6P2Si
reactant | tert-butoxy potassium | 6.15 mmol, 0.690 g | C(C)(C)(C)O[K]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 15 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.46 g | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 1,4-bis[2-(4-bromophenyl)-2-phenylethenyl]-2-dimethyloctylsilyl benzene | BrC1=CC=C(C=C1)C(=CC1=C(C=C(C=C1)C=C(C1=CC=C(C=C1)Br)C1=CC=CC=C1)[SiH2]C(CCCCCCC)(C)C)C1=CC=CC=C1 | C44H46Br2Si
